US05093332
To a mixture of 2,3-dihydro-2-oxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine (0.25 g, 1 mmol) in ethyl acetate (8 ml) and ethanol (8 ml) was added 3-chloroperoxybenzoic acid (0.43 g, 80-85% pure, 2 mmol). The reaction mixture was stirred overnight and the resulting solid collected, triturated with hot ethyl acetate and dried to give 0.25 g, 2,3-dihydro-2,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine, mp 222°-223° C.

reactant | 2,3-dihydro-2-oxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | 1 mmol, 0.25 g | O=C1NC2=C(SC1)SC(=C2)S(N)(=O)=O | C6H6N2O3S3
reactant | 3-chloroperoxybenzoic acid | 2 mmol, 0.43 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2,3-dihydro-2,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | O=C1NC2=C(S(C1)=O)SC(=C2)S(N)(=O)=O | C6H6N2O4S3
